US07863332B2
A solution of 3.63 g (10.7 mmol) of methyl (E)-3-(2-butoxy-3′-methylaminobiphenyl-4-yl)acrylate in 70 ml of methanol is stirred for 4 hours at room temperature in the presence of 363 mg (10% by mass) of 10% palladium-on-charcoal under a hydrogen atmosphere. The palladium is filtered off and the solvent is evaporated off. 3.39 g of methyl 3-(2-butoxy-3′-methylaminobiphenyl-4-yl)propanoate are obtained in the form of a yellowish oil. Yield=93%

reactant | methyl (E)-3-(2-butoxy-3′-methylaminobiphenyl-4-yl)acrylate | 10.7 mmol, 3.63 g | C(CCC)OC1=C(C=CC(=C1)/C=C/C(=O)OC)C1=CC(=CC=C1)NC | C21H25NO3
solvent | methanol | 70 ml | CO | CH4O
catalyst | palladium-on-charcoal | 363 mg | [Pd] | Pd
product | methyl 3-(2-butoxy-3′-methylaminobiphenyl-4-yl)propanoate | 3.39 g, Yield=93% | C(CCC)OC1=C(C=CC(=C1)CCC(=O)OC)C1=CC(=CC=C1)NC | C21H27NO3
